US05521170
To a solution of 4,4-dimethyl-1,3,4,5-tetrahydro-1,5-benzodiazepin-2(2H)-one (1.0 g) in N,N-dimethylaniline (20 ml) was added 4-nitrobenzoyl chloride (0.98 g) at ambient temperature. The mixture was stirred at 150° C. for 9 hours. The resulting mixture was diluted with chloroform and the organic layer was washed successively with 1N hydrochloric acid and saturated aqueous sodium bicarbonate. Drying, filtering and the removal of solvents afforded a crude product. The crude product was chromatographed on silica gel (1% methanol in chloroform) to give 4,4-dimethyl-5-(4-nitrobenzoyl)-1,3,4,5-tetrahydro-1,5-benzodiazepin-2(2H)-one (195 mg) as a slightly yellow solid.

reactant | 4,4-dimethyl-1,3,4,5-tetrahydro-1,5-benzodiazepin-2(2H)-one | 1.0 g | CC1(NC2=C(NC(C1)=O)C=CC=C2)C | C11H14N2O
reactant | 4-nitrobenzoyl chloride | 0.98 g | [N+](=O)([O-])C1=CC=C(C(=O)Cl)C=C1 | C7H4ClNO3
solvent | N,N-dimethylaniline | 20 ml | CN(C1=CC=CC=C1)C | C8H11N
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | 4,4-dimethyl-5-(4-nitrobenzoyl)-1,3,4,5-tetrahydro-1,5-benzodiazepin-2(2H)-one | 195 mg | CC1(N(C2=C(NC(C1)=O)C=CC=C2)C(C2=CC=C(C=C2)[N+](=O)[O-])=O)C | C18H17N3O4
